Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI(4): Mr. ___ is a ___ male with a history of LLE
DVT in ___, prostate cancer s/p prostatectomy (in ___, and
recent L rotator cuff repair surgery on ___ who presented 
to
___ with dyspnea on exertion and hemoptysis, was found 
to
have a large PE in the right mainstem bronchus extending in to
the right lower lobe pulmonary arteries, multiple smaller PEs on
the right, and a left sided DVT from the mid femoral vein to the
popliteal and gastrocnemius veins.

He is very active at baseline and exercises daily - he 
vigorously
exercises on an recumbent stationary bike for 45 minutes per day
and does physical therapy with weights for his recent rotator
cuff repair. Last ___, he was on the stationary bike and 1
minute in to exercising he had to stop. He thought he was 
getting
a cold, so he took it easy - biking for 2 minute intervals then
resting for 15 seconds at a time between intervals. He did this
for a couple of days. He noticed even stretching for his ___
exercises caused him to become short of breath. His wife noticed
that he just "didn't seem right" - he looked ashen and looked 
run
down. Yesterday he and his wife were getting pizza and he
coughed/cleared his throat and noticed that he coughed up a 
small
amount of blood. 

They went home and it happened a second time so they decided to
go to the ED. He never had any chest pain or palpitations. No
lightheadedness or dizziness. No swelling. No pain anywhere. No
hematuria, hematochezia, or melena.
 
Social History:
___ MEDICAL/SURGICAL HISTORY:
- LLE DVT in ___ (s/p apixaban for ___ years)
- Prostate cancer (dx'ed ___ years ago, s/p prostatectomy)
- L patellar tendon rupture (s/p repair ___ yrs ago) 
- L rotator cuff repair surgery on ___ 
- ruptured disc at age ___ core work
- medial meniscus removed at ___

SOCIAL HISTORY:
___
Family History:
FAMILY HISTORY: Reviewed and found to be not relevant to this
illness/reason for hospitalization.
heart disease, HTN - father
diverticulitis - father
heart disease - mother
stroke - father
brother - blood clots
 
Physical Exam:
VITALS:
Reviewed in POE
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 02:30AM BLOOD WBC-4.9 RBC-3.78* Hgb-12.6* Hct-37.1* 
MCV-98 MCH-33.3* MCHC-34.0 RDW-12.4 RDWSD-44.6 Plt ___
___ 07:35AM BLOOD WBC-5.2 RBC-3.96* Hgb-13.2* Hct-39.0* 
MCV-99* MCH-33.3* MCHC-33.8 RDW-12.1 RDWSD-44.0 Plt ___
___ 02:30AM BLOOD Glucose-109* UreaN-16 Creat-0.8 Na-141 
K-4.3 Cl-103 HCO3-24 AnGap-14

ECHO
he left atrium is elongated. The right atrium is moderately 
dilated. No atrial septal defect is seen by 2D or color Doppler. 
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and global systolic function (LVEF>55%). Due to suboptimal 
technical quality, a focal wall motion abnormality cannot be 
fully excluded. Overall left ventricular systolic function is 
normal (LVEF>55%). The right ventricular cavity is moderately 
dilated with mild global free wall hypokinesis. There is 
abnormal systolic septal motion/position consistent with right 
ventricular pressure overload. The ascending aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are structurally normal. An eccentric, 
posteriorly directed jet of mild (1+) mitral regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is no pericardial effusion. There is an anterior space 
which most likely represents a prominent fat pad. 

IMPRESSION: Biatrial enlargement. Moderately dilated right 
ventricle with mild global hypokinesis. D-shaped septum in some 
views consistent with pressure overload (PASP 31 mmHg +RAP). 
Mild to moderate tricuspid regurgitation. Preserved global left 
ventricular systolic function. 

CTA Chest ___, ___:
There is a large pulmonary embolus in the right mainstem 
bronchus
which extends into the right lower lobe pulmonary arteries. 
There are additional smaller pulmonary emboli in the right upper
lobe, lingula, and right lower lobe pulmonary arteries.  The
RV/LV>1 which could be suggestive of right heart strain

Bilateral Lower extremity US ___ ___:
In the left leg, there is DVT from the mid femoral vein into the
mid popliteal vein and the gastrocnemius vein.  The common
femoral and posterior tibial veins are patent.  No evidence of
DVT in the RLE.
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Mr. ___ is a ___ male with a 
history of LLE DVT in ___, prostate cancer s/p prostatectomy 
(in ___, and recent L rotator cuff repair surgery on ___ 
who presented to ___ with dyspnea on exertion and 
hemoptysis, was found to have a large PE in the right mainstem 
bronchus
extending in to the right lower lobe pulmonary arteries, 
multiple smaller PEs on the right, and a left sided DVT from the 
mid femoral vein to the popliteal and gastrocnemius veins and 
was transferred to ___ for further management. 

ACUTE/ACTIVE PROBLEMS:
# Submassive extensive pulmonary emboli
# Extensive LLE DVT
He has a history of LLE DVT in ___ for which he was treated 
with apixaban for ___ years. His only potentially precipitating 
risk factor for this current PE/DVT is a recent surgery (rotator 
cuff repair last month). He took apixaban for 10 days after this 
surgery as directed. He does have evidence of right heart strain 
on TTE with dilated right ventricle, mild global hypokinesis, 
and D-shaped septum consistent with RV pressure overload. 
Vascular surgery and MASCOT evaluated the patient and did NOT 
recommend thrombolytics.   They advised heparin gtt which he was 
started on and he had no side effects and had a stable 
hematocrit so he was started on apixaban 10 mg po bid for one 
week and then he will decrease dose to 5 mg po bid for a week 
and should stay on anticoagulation indefinitely given recurrent 
thromboembolism.  
He had some scant hemoptysis that was stable while anti 
coagulated.  
I have requested that he followup with Dr ___ at ___ 
hematology to discuss any possible need for testing for 
thromboembolic disease in order to counsel his family
Dr ___ office (vascular surgery, clotting service) 
will call the patient regarding followup appointment.
Patient was counseled to avoid vigorous physical exercise for 
several weeks and to obtain clearance from his outpatient 
doctors ___ to ___ so.
He should have age appropriate cancer screening (colonoscopy and 
___ PSA given his history) given his propensity for 
thromboembolic disease; hematology can determine if any 
additional hyper coagulable workup is needed.

# Normocytic anemia
# Thrombocytopenia
He had a mild anemia on admission - ? due to blood draws, 
dilution.  Hematocrit 39 on discharge.   PCP should ___ and 
ensure it resolves, and if it does not, should begin w/u.

CHRONIC/STABLE PROBLEMS:
# HTN - resume home lisinopril 10 mg as he has been normo- to 
hypertensive

The patient was seen and examined on the day of discharge. He 
had a small amount of old blood come up with cough. He denied 
lightheadedness or difficulty ambulating. Questions regarding 
level of activity were addressed.

I spent > 30 minutes preparing this discharge spent counseling 
regarding his condition and the precautions and steps he should 
take going forward.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Aspirin 81 mg PO DAILY 
4. Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral DAILY 

5. GuaiFENesin ER 600 mg PO QHS 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
After one week, reduce dose to 5 mg by mouth twice a day. 
RX *apixaban [Eliquis] 5 mg (74 tabs) 2 tablets(s) by mouth 
twice a day Disp #*1 Dose Pack Refills:*0 
2.  Apixaban 5 mg PO BID  
3.  GuaiFENesin ER 600 mg PO QHS  
4.  Lisinopril 10 mg PO DAILY  
5.  Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral 
DAILY  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism
Mild anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with pulmonary embolism (clots) affecting many 
arteries on the right side of your lungs.  You were evaluated by 
specialists who felt that this could be treated with blood 
thinners.  You were observed on blood thinners in the hospital 
and were stable.
You need to be on blood thinners (such as apixaban) for the rest 
of your life.   
You may continue with gentle physical activity, but would NOT do 
any aggressive physical activity such as running or biking until 
you followup with Dr ___.  

You had a mild anemia when you were admitted - please followup 
with your PCP to determine if that occurred in the context of 
blood loss from your recent surgery or if it needs to be worked 
up further.

Also, we recommend that all patients who have any kind of clot 
in their lungs be up todate with cancer screening, so if you 
have not had a colonoscopy to screen for colon cancer, that 
should be done at some point in the future.  
 
Followup Instructions:
___